US05637578
A. Synthesis of Ethyl N-(diphenylmethylene)-2-aminoeicosanoate
To a stirred solution of N-(diphenylmethylene)-glycine ethyl ester (67.3 g, 0.250 mol) in a 1:1 mixture of anhydrous THF (500 ml) and DMPU (500 ml) at -78° C. under a dry argon atmosphere was added a solution of lithium bis(trimethylsilyl)amide (250 ml-1.0M in THF, 0.25 mol) over a 10 min period. The resulting orange solution was stirred for 1.5 h at -78° C. While maintaining the temperature at -78° C., a solution of 1-bromooctadecane (83.4 g, 0.250 mol) in a 1:1 mixture of anhydrous THF (250 ml) and DMPU (250 ml) was added over a 10 min period and the resulting mixture was allowed to warm to room temperature. After stirring the mixture for 17 h, H2O (50 ml) and then ethyl acetate (2 l) were added. The solution was washed with H2O (4×2 l). The solution was dried over Na2CO3 --Na2SO4 and the volume was reduced in vacuo to 1 l. The product was crystallized by the addition of hexane to give 104 g (80% yield) of an off-white crystalline solid: mp 62°-5° C.; 1H NMR (CDCl3) δ 0.88 (t, J=6.6 Hz, 3H), 1.27 (m, 35H), 1.90 (m, 2H), 4.03 (m, 1H), 4.17 (m, 2H), 7.17 (m, 2H), 7.36 (m, 6H), 7.64 (m, 2H).

reactant | N-(diphenylmethylene)-glycine ethyl ester | 0.250 mol, 67.3 g | C(C)OC(CN=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H17NO2
reactant | lithium bis(trimethylsilyl)amide | 0.25 mol | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 1-bromooctadecane | 0.250 mol, 83.4 g | BrCCCCCCCCCCCCCCCCCC | C18H37Br
solvent | ethyl acetate | 2 l | C(C)(=O)OCC | C4H8O2
solvent | H2O | 50 ml | O | H2O
solvent | DMPU | 250 ml | CN1CCCN(C1=O)C | C6H12N2O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | DMPU | 500 ml | CN1CCCN(C1=O)C | C6H12N2O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | Ethyl N-(diphenylmethylene)-2-aminoeicosanoate | 104 g, 80% yield | C1(=CC=CC=C1)C(=NC(C(=O)OCC)CCCCCCCCCCCCCCCCCC)C1=CC=CC=C1 | C35H53NO2
